US08067362B2
Hexadecandioic acid (2 g, 7 mmol) was dissolved in dry NMP (25 mL). Diisopropylamin (1.2 mL, 7 mmol) and 4-methoxybenzyl chloride (0.95 mL, 7 mmol) was added, followed by NaI (0.52 g, 3.5 mmol). The mixture was heated to 80° C. for 1 hour, poured into water (100 mL) and filtered. The precipate was washed with dichloromethane (150 mL), the dichoromethane phase was dried (Na2SO4) and solvent removed in vacuo to yield the crude product, which was recrystallized several times from heptane to yield hexadecanedioic acid mono-(4-methoxy-benzyl)ester.

reactant | Hexadecandioic acid | 7 mmol, 2 g | C(CCCCCCCCCCCCCCC(=O)O)(=O)O | C16H30O4
reactant | Diisopropylamin | 7 mmol, 1.2 mL | C(C)(C)NC(C)C | C6H15N
reactant | 4-methoxybenzyl chloride | 7 mmol, 0.95 mL | COC1=CC=C(CCl)C=C1 | C8H9ClO
reactant | NaI | 3.5 mmol, 0.52 g | [Na+].[I-]
solvent | NMP | 25 mL | CN1CCCC1=O | C5H9NO
solvent | water | 100 mL | O | H2O
product | hexadecanedioic acid mono-(4-methoxy-benzyl)ester | COC1=CC=C(COC(CCCCCCCCCCCCCCC(=O)O)=O)C=C1 | C24H38O5
